US06515011B2
To a stirred solution of diastereomer A of 1-(tert-butoxycarbonyl)-3-ethylprolyl-N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-L-prolinamide (34 mg, 0.06 mmol) from the previous step in dioxane (2.0 mL) at ambient temperature was added an excess of 4.0 N solution of HCl in dioxane. The reaction was monitored for completeness by LCMS. The solvent was removed in vacuo to give the HCl salt of 3-ethyl-L-prolyl-N-[2-(aminomethyl)-5-chlorobenzyl]-L-prolinamide as a pale yellow oil. LCMS RT=0.74 min. LCMS (M+H)=393.3. 1H NMR (CD3OD, 400 MHz): δ 8.93 (m, 1H), 7.51 (s, 1H), 7.42-7.37 (m, 2H), 4.54-4.47 (m, 2H), 4.41-4.31 (m, 2H), 4.23 (s, 2H), 3.78-3.70 (m, 1H), 3.64-3.52 (m, 1H), 3.50-3.45 (m, 1H), 3.44-3.34 (m, 1H), 2.43 (br m, 1H), 2.34-2.27 (m, 1H), 2.16-1.67 (br m, 6H), 1.53-1.45 (m, 1H), 1.03 (t, J=7.4 Hz, 3H). Diastereomer B (37 mg, 0.06 mmol) was deprotected in similar fashion to afford the HCl salt of 3-ethyl-L-prolyl-N-[2-(aminomethyl)-5-chlorobenzyl]-L-prolinamide as a yellow oil. LCMS RT=0.73 min. LCMS (M+H)=393.3. 1H NMR (CD3OD, 400 MHz): δ 8.95 (m, 1H), 7.52 (s, 1H), 7.43-7.40 (m, 2H), 4.55 (d, J=15.6 Hz, 1H), 4.44 (dd, J=3.2 Hz, 8.8 Hz, 1H), 4.37 (d, J=15.2 Hz, 1H), 4.31 (d, J=4.8 Hz, 1H), 4.25 (s, 2H), 3.84-3.81 (m, 1H), 3.66-3.59 (m, 1H), 3.57-3.46 (m, 1H), 3.42-3.35 (m, 1H), 2.41-2.38 (m, 1H), 2.31-1.84 (m, 6H), 1.71-1.66 (m, 1H), 1.56-1.50 (m, 1H), 1.04 (t, J=7.4 Hz, 3H).

reactant | 1-(tert-butoxycarbonyl)-3-ethylprolyl-N-(2-{[(tert-butoxycarbonyl)amino]methyl}-5-chlorobenzyl)-L-prolinamide | 0.06 mmol, 34 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@H](C(=O)NCC3=C(C=CC(=C3)Cl)CNC(=O)OC(C)(C)C)CCC2)C(CC1)CC | C30H45ClN4O6
reactant | HCl | Cl | ClH
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 3-ethyl-L-prolyl-N-[2-(aminomethyl)-5-chlorobenzyl]-L-prolinamide | C(C)C1[C@H](NCC1)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CN)CCC1 | C20H29ClN4O2
